US05223591
To a stirred solution of lithium thiomethoxide (82.19 mmol, generated from n-BuLi and methylmercaptan) in 130 ml of ethanol/THF (2:3) 2-bromobenzylbromide (12.54 g, 50.17 mmol) was added. After 1 h of reflux 30 ml of a saturated aqueous NH4Cl solution was added. The mixture was concentrated and extracted with ether The organic phase was washed with water and dried with MgSO4. After evaporation the crude product was distilled to give a clear liquid of o-bromobenzyl methyl sulfide 9.88 g (89%).

reactant | lithium thiomethoxide | 82.19 mmol | C[S-].[Li+]
reactant | 2-bromobenzylbromide | 50.17 mmol, 12.54 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | NH4Cl | 30 ml | [NH4+].[Cl-]
solvent | ethanol THF | 130 ml | C(C)O.C1CCOC1
product | o-bromobenzyl methyl sulfide | 9.88 g, 89% | CSCC1=C(C=CC=C1)Br | C8H9BrS
